US08071768B2
c. (6-Cyclobutoxy-pyridin-3-yl)-carbamic acid 4-nitro-phenyl ester
A mixture of 6-cyclobutoxy-pyridin-3-ylamine (4.41 g, assume 25 mmol), as prepared in the previous step, and CaCO3 (3.25 g, 32.5 mmol) (10 micron powder) was treated with a homogeneous solution of 4-nitrophenyl chloroformate (5.54 g, 27.5 mmol) in toluene (28 mL) in one portion at rt, and was stirred at “rt” (reaction warmed spontaneously) for 2 h. The reaction mixture was then directly loaded onto a flash silica column (95:5 DCM/MeOH→9:1 DCM/MeOH) to afford 5.65 g of material, which was further purified by trituration with hot toluene (1×200 mL) to provide the title compound (4.45 g, 54%). 1H NMR (400 MHz, CDCl3) δ 8.28 (m, 2H), 8.12 (d, 1H), 7.81 (m, 1H), 7.39 (m, 2H), 6.85 (br s, 1H), 6.72 (d, 1H), 5.14 (m, 1H), 2.45 (m, 2H), 2.13 (m, 2H), 1.84 (m, 1H), 1.68 (m, 1H). LC-MS (ESI): calcd mass 329.1, found 330.1 (MH+).

reactant | 6-cyclobutoxy-pyridin-3-ylamine | 25 mmol, 4.41 g | C1(CCC1)OC1=CC=C(C=N1)N | C9H12N2O
reactant | CaCO3 | 32.5 mmol, 3.25 g | C(=O)([O-])[O-].[Ca+2]
reactant | 4-nitrophenyl chloroformate | 27.5 mmol, 5.54 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | toluene | 28 mL | C1(=CC=CC=C1)C | C7H8
product | (6-Cyclobutoxy-pyridin-3-yl)-carbamic acid 4-nitro-phenyl ester | 5.65 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC=1C=NC(=CC1)OC1CCC1)=O | C16H15N3O5
